2137-08-07 23:43:00 Physician Attending Progress Note
Chief Complaint: intubated
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57W colectomy 7 days ago - worsening anemia and new fevers -
   intrapelvic hematoma. Has been on IV heparin for post-op PE. Taken to
   OR today for evacuation and also removed more of ileum. Left intubated
   post-op and transferred to ICU.
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2137-8-7**] 10:50 PM
   Fentanyl - [**2137-8-7**] 11:14 PM
   Other medications:
   Changes to medical and family history:
   UC
   colectomy and ileostomy
   PE diagnosed [**8-2**]
   also diagnosed with pna
   OSA
   COPD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-7**] 11:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 108 (105 - 108) bpm
   BP: 182/90(124) {182/90(124) - 192/95(138)} mmHg
   RR: 17 (17 - 17) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             30 mL
   PO:
             TF:
   IVF:
   30 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    130 mL
   Urine:
   30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, midline scar
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   181
   105
   0.7
   23
   3.6
   28
   108
   140
   21
   19
        [image002.jpg]
                             [**2137-8-3**]  02:57 AM
                             [**2137-8-3**]  08:08 AM
                             [**2137-8-3**]  08:05 PM
                             [**2137-8-4**]  04:12 AM
   WBC
   19.0
   18.0
   18.7
   15.1
   Hct
   21.5
   20.0
   27.0
   26.5
   Plt
   [**Telephone/Fax (3) 6809**]89
   Cr
   0.5
   0.6
   0.0
   Glucose
   130
   165
   170
   Other labs: Alk Phos / T Bili:/0.2, Differential-Neuts:92.0 %,
   Lymph:3.5 %, Mono:3.3 %, Eos:1.1 %, Fibrinogen:656 mg/dL, LDH:241 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: LENI neg left DVT
   abd CT yesterday - no obvious DVT - need radiology to weigh in , large
   pelvic hematoma
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE - await finalization of LENIs and will
   ask radiology to comment on ? clot in IVC/iliacs/femorals, hold
   anti-coag for now, IVC filter if needed
   post-op hematoma - continue to follow Hct, access OK, close
   communication with surgery, hold anticoagulation
   HAP - abd CT still shows opacity in LLL - likely atelectasis +/- pna,
   complete course
   respiratory failure - wean vent and likely extubate in AM, check CXR
   HTN - follow and use hydralazine prn
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:   37

2137-08-08 10:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating IPS mode this AM --> SBT in progress
   iv fluid boluses for low urine output.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-8**] 02:00 AM
   Vancomycin - [**2137-8-8**] 08:39 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Propofol - [**2137-8-7**] 10:50 PM
   Midazolam (Versed) - [**2137-8-8**] 12:20 AM
   Fentanyl - [**2137-8-8**] 01:14 AM
   Famotidine (Pepcid) - [**2137-8-8**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-17**] Mild
   Pain location: Abd surgical incision
   Flowsheet Data as of  [**2137-8-8**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 117 (105 - 119) bpm
   BP: 108/57(74) {108/55(73) - 192/95(138)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 9 (9 - 13)mmHg
   Total In:
                                                                     38 mL
                                                                  3,171 mL
   PO:
   TF:
   IVF:
                                                                     38 mL
                                                                  3,171 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    325 mL
   Urine:
                                                                     30 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -92 mL
                                                                  2,846 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 524 (524 - 684) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/38/95.[**Numeric Identifier **]/22/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Left paramedial surgical
   incision; ostomy to right of midline
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Slight
   swelling RUE (site of PICC line)
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   198 K/uL
   101 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   21 mg/dL
   108 mEq/L
   137 mEq/L
   31.0 %
   24.4 K/uL
        [image002.jpg]
                             [**2137-8-3**]  02:57 AM
                             [**2137-8-3**]  08:08 AM
                             [**2137-8-3**]  08:05 PM
                             [**2137-8-4**]  04:12 AM
                             [**2137-8-7**]  11:38 PM
                             [**2137-8-7**]  11:52 PM
                             [**2137-8-8**]  02:52 AM
                             [**2137-8-8**]  05:52 AM
                             [**2137-8-8**]  06:24 AM
   WBC
   19.0
   18.0
   18.7
   15.1
   27.2
   24.4
   Hct
   21.5
   20.0
   27.0
   26.5
   31.8
   31.0
   Plt
   [**Telephone/Fax (3) 6809**]89
   205
   198
   Cr
   0.5
   0.6
   0.0
   0.6
   0.6
   TCO2
   25
   23
   24
   Glucose
   130
   165
   170
   121
   101
   Other labs: PT / PTT / INR:11.5/26.6/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:91.3 %, Lymph:3.9 %, Mono:4.4 %, Eos:0.3 %,
   Fibrinogen:656 mg/dL, LDH:241 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- post-op.  Tolerating SBT.  Plan reduce sedateion
   and extubation.
   PELVIC HEMATOMA -- complication of anticoagulation; s/p surgical
   evacuation.  Hopefully resolved.
   PULMONARY EMBOLISM, ACUTE -- ? clot source from IVC/iliacs/femorals -->
   repeat NIVS (esp right LE). Hold anti-coagulation per Surgery.  IVC
   filter if unable to resume anticoagulation.
   ANEMIA -- blood loss.  Continue serial Hct.  Hold anticoagulation
   [**Hospital 6897**] [**Hospital **] Hospital acquired pneumonia, complete course
   s/p BOWEL RESECTION -- plans as per surgery.
   NUTRITIONAL SUPPORT -- NPO.
   ULCERATIVE COLITIS -- continue usual meds.
   HTN - Hydralazine prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-7**] 09:00 PM
   Arterial Line - [**2137-8-7**] 10:00 PM
   PICC Line - [**2137-8-7**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-08-09 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2137-8-8**] 05:06 PM
   pt has had PICC in place prior to OR
   [**8-8**]
   extubated without complication
   restarted heparin drip at 5:00pm
   found to have RUE DVT, picc line pulled
   started PCA
   hct drifting downward, last 25.4; patient asymptomatic with no chest
   pain, SOB or confusion. Nonacute abdoman with no increased drainage
   from ostomy site. Surgery notified.  Will cont heparin drip
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-8**] 07:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2137-8-9**] 01:02 AM
   Lorazepam (Ativan) - [**2137-8-9**] 02:12 AM
   Famotidine (Pepcid) - [**2137-8-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-9**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 91 (91 - 127) bpm
   BP: 125/51(74) {108/47(69) - 162/67(97)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  4,856 mL
                                                                    244 mL
   PO:
   TF:
   IVF:
                                                                  4,856 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    850 mL
   Urine:
                                                                  1,220 mL
                                                                    850 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,436 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 524 (524 - 524) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.40/38/95.[**Numeric Identifier **]/25/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   7.9 g/dL
   112 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   23.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2137-8-3**]  08:05 PM
                             [**2137-8-4**]  04:12 AM
                             [**2137-8-7**]  11:38 PM
                             [**2137-8-7**]  11:52 PM
                             [**2137-8-8**]  02:52 AM
                             [**2137-8-8**]  05:52 AM
                             [**2137-8-8**]  06:24 AM
                             [**2137-8-8**]  04:43 PM
                             [**2137-8-8**]  11:41 PM
                             [**2137-8-9**]  04:15 AM
   WBC
   18.7
   15.1
   27.2
   24.4
   13.9
   Hct
   27.0
   26.5
   31.8
   31.0
   27.3
   25.4
   23.9
   Plt
   [**Telephone/Fax (3) 6921**]98
   176
   Cr
   0.6
   0.0
   0.6
   0.6
   0.7
   TCO2
   25
   23
   24
   Glucose
   165
   170
   121
   101
   112
   Other labs: PT / PTT / INR:11.6/27.7/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:90.1 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.4 %,
   Fibrinogen:656 mg/dL, LDH:241 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 .H/O ANXIETY
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 TACHYCARDIA, OTHER
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LEUKOCYTOSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
   57yo woman with ulcerative colitis s/p recent total colectomy who
   developed pelvic hematoma in the setting of anticoagulation for new PE.
   # Hematoma and Anemia:
   Patient is s/p evacuation of hematoma.
   - monitor Q6H Hct
   - active type and screen
   - transfuse to goal Hct > 24
   - hold heparin gtt for at least 24 hours post-op (until 11pm [**8-8**]); see
   anticoagulation discussion below.
   - INR was 0.9 when checked [**8-5**]; will recheck coags
   - appreciate surgery input
   - monitor surgical wound and abdominal exam
   # Pulmonary embolus:  Segmental PE idenitified [**8-2**].  Decision
   regarding whether to reinitiate anticoagulation should be weighed
   against risk of potential recurrent bleeding given severity of
   hematoma.  If she is not put back on anticoagulation, she may be a
   candidate for IVC filter if she has persistent LE clot.
   - obtain complete LE dopplers and review CT abd/pelvis with radiology
   for evidence of iliac or femoral clot
   - discuss with surgery and GI team regarding risks/benefits of
   restarting anticoagulation
   # Tachycardia:
   Patient has multiple reasons to be tachycardic, including volume
   depletion, under-sedation, and known PE.  Note that she also has a h/o
   anxiety on chronic benzodiazepines in house.  [**Month (only) 11**] also be due to her
   steroids.
   - increase sedation with propofol and fentanyl while on vent
   - bolus IV fluids and monitor HR and Uop
   - check CVP to help assess volume status
   # Hypertension:
   Patient noted to be very hypertensive upon arrival to ICU.  She is not
   sufficiently sedated on the vent, although her steroids might also be
   driving her elevated BPs.
   - hydralazine prn, although note that this may
   - will hold off on beta blockers for now
   # Mechanical ventilation:
   Patient remains intubated post-op pending hemodynamic stabilization.
   Note that she is currently being treated for hospital acquired
   pneumonia and also has pleural effusions as well as atelectasis.
   - ABG; will wean FiO2 as tolerated
   - propofol and fentanyl for sedation with the hopes that she may be
   extuabatable in the morning
   # Leukocytosis:
   Has had leukocytosis, likely from steroids, but her white count has
   jumped.  This may be in the setting of hematoma and surgery, but will
   eval for infection.
   - blood, urine, sputum Cx
   - continue vanc/zosyn (day 1 = [**8-3**])
   # Non-gap acidosis:
   - will use LR for volume resuscitation
   # Ulcerative Colitis: s/p total colectomy with end ileostomy
   - moniotor surgical site
   - appreciate GI input
   # Atelectasis:
   Provide with IS after extubation.
   # Skin rash:  appears to be in areas that are in contact with bed, ?
   contact dermatitis
   # COPD: ipratropium and albuterol
   # OSA:
   - after extubated, will need CPAP at night
   # FEN:  strict NPO including medications per surgery; if cannot be
   extubated, would start TPN; replete lytes; LR at 100/hr per surgery
   with boluses PRN
   # PPX:   heparin subQ; famotidine
   # Access:  RIJ, R PICC, R art line
   # Code:  FULL
   # Communication: Brother [**Name (NI) **] [**Name (NI) **] is HCP [**Telephone/Fax (1) 6779**].
   # DISPO:  to surgical floor once extubated and stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-7**] 09:00 PM
   Arterial Line - [**2137-8-7**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-09 10:22:00 Physician Attending Progress Note
Chief Complaint: Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday, remains extubated.
   Post-op pain control improved with PCA pump.
   Continues to exhibit some emotional lability.
   Anticoagulation resumed yesterday afternoon (no bolus) --> d/c'd this
   AM in setting of low Hct.
   New right UE clot identified by NIVS --> PICC line removed
                          History obtained from [**Hospital 31**] Medical records
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 02:00 AM
   Vancomycin - [**2137-8-9**] 08:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2137-8-9**] 01:02 AM
   Lorazepam (Ativan) - [**2137-8-9**] 02:12 AM
   Famotidine (Pepcid) - [**2137-8-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-17**] Mild
   Pain location: Abd incision
   Flowsheet Data as of  [**2137-8-9**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 107 (91 - 127) bpm
   BP: 92/53(69) {92/47(69) - 162/67(97)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  4,856 mL
                                                                    480 mL
   PO:
   TF:
   IVF:
                                                                  4,856 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                  1,450 mL
   Urine:
                                                                  1,220 mL
                                                                  1,450 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,436 mL
                                                                   -970 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Ostomy; Surgical Incision
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   176 K/uL
   112 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   23.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2137-8-3**]  08:05 PM
                             [**2137-8-4**]  04:12 AM
                             [**2137-8-7**]  11:38 PM
                             [**2137-8-7**]  11:52 PM
                             [**2137-8-8**]  02:52 AM
                             [**2137-8-8**]  05:52 AM
                             [**2137-8-8**]  06:24 AM
                             [**2137-8-8**]  04:43 PM
                             [**2137-8-8**]  11:41 PM
                             [**2137-8-9**]  04:15 AM
   WBC
   18.7
   15.1
   27.2
   24.4
   13.9
   Hct
   27.0
   26.5
   31.8
   31.0
   27.3
   25.4
   23.9
   Plt
   [**Telephone/Fax (3) 6921**]98
   176
   Cr
   0.6
   0.0
   0.6
   0.6
   0.7
   TCO2
   25
   23
   24
   Glucose
   165
   170
   121
   101
   112
   Other labs: PT / PTT / INR:11.6/27.7/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:90.1 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.4 %,
   Fibrinogen:656 mg/dL, LDH:241 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- post-op.  Extubated and stable.
   PELVIC HEMATOMA -- complication of anticoagulation; s/p surgical
   evacuation.  Hopefully resolved.
   PULMONARY EMBOLISM, ACUTE -- ? clot source from IVC/iliacs/femorals -->
   repeat NIVS (esp right LE).  Anticoagulation per Surgery --> hope to
   resume once determined to be safe per Surgery, maintain PTT 50-70.  IVC
   filter if unable to resume anticoagulation.
   RUE BLOOD CLOT -- likely attributed to PICC.  PICC d/c'd.  Monitor
   exam, local care (elevation).
   ANEMIA -- blood loss.  Continue serial Hct.  Continue anticoagulation,
   monitor PTT (maintain 50-70).
   PNEUMONIA [**Hospital **] Hospital acquired pneumonia, complete course of
   antimicrobials.
   s/p BOWEL RESECTION -- plans as per surgery.  Monitor for ileus.
   NUTRITIONAL SUPPORT -- NPO.  Hope to resume TF.
   ULCERATIVE COLITIS -- continue usual meds.
   HTN - Hydralazine prn
   NEUROPSYCH -- anxiety (anxiolytics use at home) and emotional lability
   (possible contribution of steroids)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-7**] 09:00 PM
   Arterial Line - [**2137-8-7**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-08-10 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Heparin restarted
   - Transfused 2 units PRBCs with 40 mg lasix
   - Called on Positive Cx: Peritoneal fluid grew out enteroccus, tissue
   sample from hematoma grew gram positive cocci.  No chg in abx coverage
   at this time.
   - Undocumented rash: punctate lesions on posterior trunk, buttocks.
   Also confluent errythematous rash on buttocks.  Suspect puctate lesions
   are heat related--will monitor.  Anti-fungal cream for confluent rash
   on buttocks
   -TPN started
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 02:00 AM
   Vancomycin - [**2137-8-9**] 09:55 PM
   Piperacillin - [**2137-8-10**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-8-9**] 09:55 PM
   Famotidine (Pepcid) - [**2137-8-10**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 86 (85 - 129) bpm
   BP: 136/62(92) {92/47(64) - 161/62(97)} mmHg
   RR: 13 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,218 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                    857 mL
                                                                    183 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  4,800 mL
                                                                  3,200 mL
   Urine:
                                                                  4,800 mL
                                                                  3,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,582 mL
                                                                 -2,413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General: A+0 x 3, appears anxious
   HEENT: PERRL, dry mucus membranes
   CV: RRR S1 S2 systolic ejection murmur loudest at LSB
   Resp: scattered rhonchi and rales throughout R> L
   Abdoman: mildly distended, tender to gentle palpation, no guarding or
   peritoneal signs, moderate amt serosanginous fluid from surgical ostomy
   drain, dressings C/D/I
   Ext: +2 DP b/l
   Labs / Radiology
   186 K/uL
   10.4 g/dL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   20 mg/dL
   103 mEq/L
   141 mEq/L
   30.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2137-8-7**]  11:52 PM
                             [**2137-8-8**]  02:52 AM
                             [**2137-8-8**]  05:52 AM
                             [**2137-8-8**]  06:24 AM
                             [**2137-8-8**]  04:43 PM
                             [**2137-8-8**]  11:41 PM
                             [**2137-8-9**]  04:15 AM
                             [**2137-8-9**]  12:48 PM
                             [**2137-8-9**]  10:58 PM
                             [**2137-8-10**]  05:18 AM
   WBC
   24.4
   13.9
   13.5
   Hct
   31.0
   27.3
   25.4
   23.9
   22.9
   30.3
   30.8
   Plt
   198
   176
   186
   Cr
   0.6
   0.7
   0.7
   TCO2
   25
   23
   24
   Glucose
   101
   112
   116
   Other labs: PT / PTT / INR:11.6/27.5/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:90.1 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.4 %,
   Fibrinogen:656 mg/dL, LDH:241 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Micro: Peritoneal Fluid
Enterococci, Tissue Sample
   Rads:  No new imaging
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O ANXIETY
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 TACHYCARDIA, OTHER
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LEUKOCYTOSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   57yo woman with ulcerative colitis s/p recent total colectomy who
   developed pelvic hematoma in the setting of anticoagulation for new PE.
   # Hematoma and Anemia:
   Patient is s/p evacuation of hematoma with downward trend in Hct since
   surgery.  Multifactorial etiology: dilutional component, on
   anticoation, ooze from surgical site.
   - monitor Q6H Hct; active type and screen
   - transfuse to goal Hgb<8
   - On Heparin drip for PE and RUE DVT, goal PTT 50-70
   -abdominal pain out of proportion to clinical exam, continue PCA for
   pain control and d/c reglan as promotility effects may contribute to
   discomfort
   - appreciate surgery input
   - monitor surgical wound and abdominal exam
   #Anxiety
   - pt has chronic issues with anxiety, on xanax TID at home
   -social consult to see
   -judicious use of benzos in hospital considering pt
s high doses
   narcotics for pain control
   # Pulmonary embolus:  Segmental PE idenitified [**8-2**].  Decised to
   reinitiate anticoagulation despite risk of potential recurrent bleeding
   given severity of hematoma.  If she is not put back on anticoagulation
   - on heparin drip with goal PTT 50-70 given bleeding risk
   - longterm consideration for placement of IVC filter
   # Tachycardia:
   Patient has multiple reasons to be tachycardic, including volume
   depletion, under-sedation, and known PE.  Note that she also has a h/o
   anxiety on chronic benzodiazepines in house.
   - bolus IV fluids and monitor HR and Uop
   - check CVP to help assess volume status
   -Ativan 1mg PRN adequately controls anxiety
   # Hypertension:
   Patient noted to be very hypertensive upon arrival to ICU.  She is not
   sufficiently sedated on the vent, although her steroids might also be
   driving her elevated BPs.
   - hydralazine prn, although note that this may
   - will hold off on beta blockers for now
   #HAP with pleural effusions and atelectasis: s/p intubation, improved
   respiratory status
   - Continue to wean off NC as tolerated to keep SaO2 > 90
   - complete antibiotic course for HAP, vanco and zosyn
   - clinical improvement: decreased WBC, afebrile, improved respiratory
   status
   -encourage incentive spirometry to aid ventilation
   # Ulcerative Colitis: s/p total colectomy with end ileostomy
   - moniotor surgical site
   - appreciate GI input
   # Skin rash:  appears to be in areas that are in contact with bed, ?
   contact dermatitis
   # COPD: ipratropium and albuterol
   # OSA:
   - after extubated, will need CPAP at night
   # Code:  FULL
   # Communication: Brother [**Name (NI) **] [**Name (NI) **] is HCP [**Telephone/Fax (1) 6779**].
   # DISPO:  to surgical floor once extubated and stabilized
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2137-8-9**] 04:22 PM 83.[**Telephone/Fax (5) 1993**]
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-7**] 09:00 PM
   Arterial Line - [**2137-8-7**] 10:00 PM
   Prophylaxis:
   DVT:  [on heparin drip]
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-10 10:42:00 Physician Attending Progress Note
Chief Complaint: Anemia, pulmonary embolism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   Received 2 units PRBC transfusion, tolerated well.
   Heparin resumed.
   Adequate pain control with PCA pump.
   Remains somewhat tearful.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Tussionex (Oral) (Hydrocodone/Chlorphen Polis)
   Unknown;
   Mercaptopurine
   leukopenia;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 02:00 AM
   Piperacillin - [**2137-8-10**] 02:00 AM
   Vancomycin - [**2137-8-10**] 08:51 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-8-9**] 09:55 PM
   Famotidine (Pepcid) - [**2137-8-10**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-15**] Minimal
   Flowsheet Data as of  [**2137-8-10**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 84 (84 - 129) bpm
   BP: 137/80(108) {95/47(64) - 161/80(108)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,218 mL
                                                                  1,256 mL
   PO:
             TF:
   IVF:
                                                                    857 mL
                                                                    398 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  4,800 mL
                                                                  3,520 mL
   Urine:
                                                                  4,800 mL
                                                                  3,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,582 mL
                                                                 -2,264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   186 K/uL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   20 mg/dL
   103 mEq/L
   141 mEq/L
   30.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2137-8-7**]  11:52 PM
                             [**2137-8-8**]  02:52 AM
                             [**2137-8-8**]  05:52 AM
                             [**2137-8-8**]  06:24 AM
                             [**2137-8-8**]  04:43 PM
                             [**2137-8-8**]  11:41 PM
                             [**2137-8-9**]  04:15 AM
                             [**2137-8-9**]  12:48 PM
                             [**2137-8-9**]  10:58 PM
                             [**2137-8-10**]  05:18 AM
   WBC
   24.4
   13.9
   13.5
   Hct
   31.0
   27.3
   25.4
   23.9
   22.9
   30.3
   30.8
   Plt
   198
   176
   186
   Cr
   0.6
   0.7
   0.7
   TCO2
   25
   23
   24
   Glucose
   101
   112
   116
   Other labs: PT / PTT / INR:11.6/27.5/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:90.1 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.4 %,
   Fibrinogen:656 mg/dL, LDH:241 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   PELVIC HEMATOMA -- complication of anticoagulation; s/p surgical
   evacuation.  Stable Hct suggests resolution of bleeding.
   PERITONITIS
 Enterococcus by surgical culture -
 continue vancomycin
   pending sensitivities.
   PULMONARY EMBOLISM, ACUTE -- Anticoagulation per Surgery --> maintain
   PTT 50-70.  IVC filter if unable to maintain anticoagulation.
   RUE BLOOD CLOT -- likely attributed to PICC.  PICC d/c'd.  Monitor
   exam, local care (elevation).
   ANEMIA -- blood loss.  Continue serial Hct.  Continue anticoagulation,
   monitor PTT (maintain 50-70).  Post transfusion Hct now stable.
   PNEUMONIA [**Hospital **] Hospital acquired pneumonia, complete course of
   antimicrobials (zosyn to be completed [**8-11**])
   s/p BOWEL RESECTION -- plans as per surgery.  Monitor for ileus.
   NUTRITIONAL SUPPORT -- NPO.  Continue TPN.
   ULCERATIVE COLITIS -- continue usual meds.
   HTN
 Attributed to underlying HTN, exacerbation by pain and anxiety.
   Treat anxiety and pain.  Hydralazine prn
   NEUROPSYCH -- anxiety (anxiolytics use at home) and emotional lability
   (possible contribution of steroids)
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2137-8-9**] 04:22 PM 83.[**Telephone/Fax (5) 1993**]
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-7**] 09:00 PM
   Arterial Line - [**2137-8-7**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : transfer to floor
   Total time spent: 35 minutes